US08309650B2
Synthesis of 6-carbazol-9-yl-hexan-1-ol
To a 500 ml three-neck round bottom flask was added 25 g. carbazole, 218 g. dimethyl formamide, 45.5 g. potassium carbonate and 43 g. 6-chloro-1-hexanol. The reaction mixture was heated at 150° C. for 6 hours, and cooled to room temperature. 500 g. ethyl acetate was added, washed with 250 g water, then 250 g water with 50 g concentrated HCl, then 250 g. saturated brine. The solvent was removed on a rotary evaporator to yield 58 g of a brown semi-solid. The crude product was purified using a silica gel flash chromatography column with dichloromethane as the elutant. The concentrated product fractions yielded 33.3 g. of a white solid product; ˜90% pure by gas chromatography.

reactant | carbazole | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chloro-1-hexanol | ClCCCCCCO | C6H13ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-carbazol-9-yl-hexan-1-ol | 58 g | C1=CC=CC=2C3=CC=CC=C3N(C12)CCCCCCO | C18H21NO
